US06710056B2
Ethyl 1,2,3,4-Tetrahydroquinoline-6-carboxylate:
257 mg (1.1 mmol) of nickel chloride hexahydrate and then 770 mg (20.3 mmol) of sodium borohydride were added to a mixture of 1.00 g (5.0 mmol) of ethyl quinoline-6-carboxylate and 15 ml of methanol under cooling with ice, and they were stirred at room temperature for 20 minutes. Methanol was evaporated, and the residue was purified by the silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound.

reactant | sodium borohydride | 20.3 mmol, 770 mg | [BH4-].[Na+]
reactant | ethyl quinoline-6-carboxylate | 5.0 mmol, 1.00 g | N1=CC=CC2=CC(=CC=C12)C(=O)OCC | C12H11NO2
catalyst | nickel chloride hexahydrate | 1.1 mmol, 257 mg | O.O.O.O.O.O.[Ni](Cl)Cl
solvent | methanol | 15 ml | CO | CH4O
product | Ethyl 1,2,3,4-Tetrahydroquinoline-6-carboxylate | N1CCCC2=CC(=CC=C12)C(=O)OCC | C12H15NO2
